US05352684
S. 3-(6--Chlorohexanoyl)-1,4,5,6,7,8-hexahydro-2-methyl-4-(3-nitrophenyl)-5-oxo-quinoline
37 g (0.33 mol) 3-aminocyclohex-2-en-1-one and 42 g (0.13 mol) 1-chloro-7-(3-nitrophenyl-methylene)-nonane-6,8-dione are boiled under reflux in 400 ml methanol for 38 h. The mixture is concentrated and the residue is chromatographed with toluene/acetone=8/2. The title compound is obtained as a yellow oil. Yield: 18 g (34%).

reactant | 3-aminocyclohex-2-en-1-one | 0.33 mol, 37 g | NC1=CC(CCC1)=O | C6H9NO
reactant | 1-chloro-7-(3-nitrophenyl-methylene)-nonane-6,8-dione | 0.13 mol, 42 g | ClCCCCCC(C(C(C)=O)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C16H18ClNO4
solvent | methanol | 400 ml | CO | CH4O
product | 3-(6--Chlorohexanoyl)-1,4,5,6,7,8-hexahydro-2-methyl-4-(3-nitrophenyl)-5-oxo-quinoline | ClCCCCCC(=O)C1=C(NC=2CCCC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C22H25ClN2O4
